US07847043B2
Preparation of (Dimethylbismuthanyl-Methyl)Benzene
A 40 ml (40 mmole) of 1.0 M solution of benzyl magnesium chloride in diethyl ether was cooled to 0° C., and thereto was added dropwise a solution of 10.2 g (32.1 mmole) of dimethylbismuthanyl bromide prepared in Preparation Example 2 in 20 ml of THF (45 minutes). The reaction mixture was further stirred at 0° C. for 2 hours qnd hexane was added. The supernatant liquid was extracted, concentrated and distilled in a vacuum, giving 3.5 g (yield 32.8%) of a yellow liquid product. b.p. 67-76° C./0.7 mmHg. 1H-NMR revealed that the product was the desired one.

reactant | benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | dimethylbismuthanyl bromide | 32.1 mmole, 10.2 g | C[Bi](C)Br
reactant | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (Dimethylbismuthanyl-Methyl)Benzene | 3.5 g, yield 32.8% | C[Bi](C)CC1=CC=CC=C1 | InChI=1S/C7H7.2CH3.Bi/c1-7-5-3-2-4-6-7;;;/h2-6H,1H2;2*1H3;
